* C:\Users\gvaib\Vaibhav\IITM\Acads\Semester 4\EE2019 - Analog Systems and Lab\Lab\Exp7\Draft2.asc
V1 N001 0 10.05
R1 0 N001 1
R2 0 N001 1
R3 0 N001 1
R4 0 N001 3.3
.tran 1
.backanno
.end
